US07402595B2
6-chloro-1-oxo-2-pentylamino-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a mixture of 6-chloro-1-oxo-2-pentylidenamino-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (120 mg), acetic acid (76 μl) and methanol (5.0 ml) was added sodium cyano borohydride (80 mg) and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure and saturated aqueous sodium hydrogen carbonate was added to the residue. The mixture was extracted with dichloromethane, and after drying, the organic layer was concentrated under reduced pressure. The residue was subjected to medium pressure preparative LC (hexane/ethyl acetate=9/1-1/1) to give the title compound (78 mg) as colorless crystals.

reactant | 6-chloro-1-oxo-2-pentylidenamino-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 120 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)N=CCCCC | C22H21ClN2O3
reactant | acetic acid | 76 μl | C(C)(=O)O | C2H4O2
reactant | sodium cyano borohydride | 80 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5.0 ml | CO | CH4O
product | 6-chloro-1-oxo-2-pentylamino-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 78 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)NCCCCC | C22H23ClN2O3
